US09382244B2
810 g of ammonium formate are added to 253 g of 4-((E)-2-dimethylaminovinyl)nicotinonitrile in a 4 liter vessel. 300 ml of AcOH are then added, and the mixture is heated at 115° C. for 20 h. The mixture is cooled, 5 liters of water are added, and the mixture is extracted 10× with 0.5 liter of CH2Cl2. The aqueous phase is adjusted to ˜pH 10 using 160 g of NaOH. The aqueous phase is extracted with MTB ether, the organic phase is separated off and dried over sodium sulfate. Removal of the solvent and drying gives 59 g of 2,7-naphthyridin-1-ylamine, M˜145.16 g/mol, M+H found 146, NMR corresponds.

reactant | ammonium formate | 810 g | C(=O)[O-].[NH4+]
reactant | 4-((E)-2-dimethylaminovinyl)nicotinonitrile | 253 g | CN(/C=C/C1=CC=NC=C1C#N)C | C10H11N3
reactant | AcOH | 300 ml | CC(=O)O | C2H4O2
solvent | water | 5 liters | O | H2O
product | 2,7-naphthyridin-1-ylamine | 59 g | C1(=NC=CC2=CC=NC=C12)N | C8H7N3
